US05075451
N-(2-methylimidazolyl)-L-phenylalanine methyl ester was prepared from L-phenylalanine methyl ester hydrochloride (3.30 mmol) and 2-formyl-imidazole (3.63 mmol) utilizing the procedure of Example 9, first paragraph, to yield, after flash chromatography (3:50:50 v/v/v CH3OH/EtOAc/CH2Cl2 ; SiO2 gel), 0.55 g (65% yield) of pure product.

reactant | L-phenylalanine methyl ester hydrochloride | 3.30 mmol | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | 2-formyl-imidazole | 3.63 mmol | C(=O)C=1NC=CN1 | C4H4N2O
solvent | CH3OH EtOAc CH2Cl2 | CO.CCOC(=O)C.C(Cl)Cl
product | N-(2-methylimidazolyl)-L-phenylalanine methyl ester | COC([C@@H](NC=1N=C(NC1)C)CC1=CC=CC=C1)=O | C14H17N3O2
